US08084620B2
Step 2 A solution of 4-bromo-7-vinyl-9H-carbazole-1-carboxamide (1.66 g, 4.74 mmol) and 4-methylmopholine N-oxide (0.833 g, 7.11 mmol) in acetone (172 mL) and water (17.2 mL) was treated with osmium tetroxide, 2.5 wt % in tert-butanol (0.238 mL, 0.019 mmol). The mixture was stirred at rt overnight, then was treated with additional 4-methylmorpholine N-oxide (0.8 eq., 0.42 g) and osmium tetroxide solution (0.004 eq., 0.2 mL). The mixture was stirred over a weekend, then was treated with sodium sulfite (2.99 g, 23.70 mmol) and stirred for 30 min. The mixture was filtered through a pad of Celite, and the solids were washed with acetone and THF. The filtrates were concentrated and purified by column chromatography (eluting with a gradient from 70:30 EtOAc-hexane to EtOAc, followed by 95:5 EtOAc-methanol) to afford 4-bromo-7-((RS)-1,2-dihydroxyethyl)-9H-carbazole-1-carboxamide as an off-white solid (1.47 g, 86%). 1H NMR (400 MHz, DMSO-d6) δ 11.45 (1H, s), 8.33 (1H, d, J=8.1 Hz), 8.00 (1H, br. s.), 7.58-7.68 (2H, m), 7.35 (1H, br. s.), 7.22 (1H, d, J=8.1 Hz), 7.07 (1H, d, J=8.4 Hz), 5.14 (1H, d, J=4.0 Hz), 4.41-4.62 (2H, m), 3.32 (2H, t, J=5.7 Hz). Mass spectrum m/z 331, 333 (M+H—H2O)+.

reactant | 4-bromo-7-vinyl-9H-carbazole-1-carboxamide | 4.74 mmol, 1.66 g | BrC1=CC=C(C=2NC3=CC(=CC=C3C12)C=C)C(=O)N | C15H11BrN2O
reactant | 4-methylmopholine N-oxide | 7.11 mmol, 0.833 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | 4-methylmorpholine N-oxide | 0.42 g, 0.8 eq. | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | sodium sulfite | 23.70 mmol, 2.99 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | acetone | 172 mL | CC(=O)C | C3H6O
solvent | water | 17.2 mL | O | H2O
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
catalyst | osmium tetroxide | 0.2 mL, 0.004 eq. | [Os](=O)(=O)(=O)=O
catalyst | tert-butanol | 0.019 mmol, 0.238 mL | C(C)(C)(C)O | C4H10O
product | 4-bromo-7-((RS)-1,2-dihydroxyethyl)-9H-carbazole-1-carboxamide | 1.47 g, 86% | BrC1=CC=C(C=2NC3=CC(=CC=C3C12)C(CO)O)C(=O)N | C15H13BrN2O3
